US07348425B2
Carbonyl diimidazole (6.0 g, 37 mmol) was added to a solution of 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid (10 g, 31 mmol) in THF (30 mL) and the reaction was stirred at 50° C. for 2 h (a white precipitate had formed). The reaction was cooled to rt and treated with N,N-dimethylsulfamide (4.6 g, 37 mmol). Then DBU (6.7 mL) in THF (20 mL) was added dropwise and the reaction was stirred at rt overnight. The solution was diluted with EtOAc (300 mL) and washed with H2O (150 mL), 1N aqueous HCl (2×100 mL) and brine (100 mL). The combined aqueous layers were extracted with EtOAc (200 mL) and the organic layer was washed with 1N aqueous HCl (150 mL) and brine (50 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to an oil. The oil was diluted with Et2O and concentrated to a semi-solid which was triturated with Et2O to yield 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide (6.1 g, 14 mmol, 46%) as a light yellow solid. The organic washes where concentrated and purified by silica gel chromatography (20-35% EtOAc/hexanes) to yield additional 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide (2.5 g, 6 mmol, 19%). 1HNMR (500 MHz, CD3OD) δ 7.90 (d, J=1.8 Hz, 1H), 7.77 (d, J=8.5 Hz, 1H), 7.56 (dd, J=1.8, 8.5 Hz, 1H), 3.01 (s, 6H), 2.93-2.86 (m, 1H), 2.04-1.76 (m, 7H), 1.54-1.37 (m, 3H). LCMS: m/e 426 (M−H)−, ret time 1.55 min, column A, 2 minute gradient.

reactant | Carbonyl diimidazole | 37 mmol, 6.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid | 31 mmol, 10 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)O | C15H16BrNO2
reactant | N,N-dimethylsulfamide | 37 mmol, 4.6 g | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 6.7 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide | 14 mmol, 6.1 g, 46% | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)NS(=O)(=O)N(C)C | C17H22BrN3O3S
